* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 18.2
R1 n1 a 5
R2 a nc 5
V2 nc nd DC 30
R3 nd ne 3
V3 b ne DC 17.8
V4 nf b DC 13
R4 nf 0 2
.op
.print dc V(a) V(b)
.end